US07989460B2
7-(2-Chloroethoxy)-6-methoxy-3,4-dihydroquinazolin-4-one (5 g, 19 mmol) was suspended in thionyl chloride (28 mL) and DMF (0.7 mL) was added. The mixture was heated at 80° C. for 1.5 hours under anhydrous conditions. The excess thionyl chloride was evaporated off and toluene was added to remove the last traces by azeotropic distillation (repeated twice). The solid was suspended in ice-water and the pH adjusted to 7.5 with sodium hydroxide 2N first then with a saturated sodium hydrogen carbonate solution. The solid was collected by filtration, washed with water, ether and dried over P2O5 under vacuum. The crude product was purified by flash chromatography using dichloromethane/acetonitrile (95/5 up to 90/10). Evaporation of the solvent gave 4-chloro-7-(2-chloroethoxy)-6-methoxyquinazoline (3.06 g, 59%).

reactant | 7-(2-Chloroethoxy)-6-methoxy-3,4-dihydroquinazolin-4-one | 19 mmol, 5 g | ClCCOC1=C(C=C2C(NC=NC2=C1)=O)OC | C11H11ClN2O3
reactant | DMF | 0.7 mL | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 28 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-chloro-7-(2-chloroethoxy)-6-methoxyquinazoline | 3.06 g, 59% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCl | C11H10Cl2N2O2
